US07148226B2
6-Cyclopentyl-6-{2-[4-(3,5-dimethyl-isoxazol-4-yl)-phenyl]-ethyl}-3-(5,7-dimethyl-[1,2,4]triazolo[1,5-a]pyrimidin-2-ylmethyl)-4-hydroxy-5,6-dihydro-pyran-2-one
The title compound was prepared by coupling 6-Cyclopentyl-6-{2-[4-(3,5-dimethyl-isoxazol-4-yl)-phenyl]-ethyl}-dihydro-pyran-2,4-dione (Example A(18)) to 5,7-Dimethyl-[1,2,4]triazolo[1,5-α]pyrimidine-2-carbaldehyde using the Me2NHBH3 method described in the synthesis of Example B(31).

reactant | 6-Cyclopentyl-6-{2-[4-(3,5-dimethyl-isoxazol-4-yl)-phenyl]-ethyl}-dihydro-pyran-2,4-dione | C1(CCCC1)C1(CC(CC(O1)=O)=O)CCC1=CC=C(C=C1)C=1C(=NOC1C)C | C23H27NO4
reactant | 5,7-Dimethyl-[1,2,4]triazolo[1,5-α]pyrimidine-2-carbaldehyde | CC1=NC=2N(C(=C1)C)N=C(N2)C=O | C8H8N4O
product | 6-Cyclopentyl-6-{2-[4-(3,5-dimethyl-isoxazol-4-yl)-phenyl]-ethyl}-3-(5,7-dimethyl-[1,2,4]triazolo[1,5-a]pyrimidin-2-ylmethyl)-4-hydroxy-5,6-dihydro-pyran-2-one | C1(CCCC1)C1(CC(=C(C(O1)=O)CC1=NN2C(N=C(C=C2C)C)=N1)O)CCC1=CC=C(C=C1)C=1C(=NOC1C)C | C31H35N5O4
